US05663368
c) (S)-N-(6-Benzyloxy-2,3-dihydrobenzofuran-3-yl)-N-hydroxyurea
To a stirred solution of (S)-N-(6-benzyloxy-2,3-dihydrobenzofuran-3-yl)hydroxylamine (10.0 kg, 38.9 moles), DMF (50.0 L), and acetic acid (3.34 L) cooled to 5° C. was added in one portion, a cooled (0° C.) solution of potassium cyanate (4.73 kg, 58.3 moles) in water (9.0 L). This was added at such a rate that the internal temperature did not exceed 10° C. The resultant suspension was stirred for 30 min at room temperature. Water (213 L) was added and the mixture stirred for 1 hour at ambient temperature. The product was collected by centrifugation and the wet cake washed with water (425 L) and 95% ethanol (40 L). The product was isolated an dried at 45°-50° C. under vacuum to afford the crude product (11.4, 97%) as an off white solid. The crude product (11.0 kg) was recrystallized from DMF/TBME (110 L/233 L) and washed with TBME (89 L) to afford the desired compound (9.1 kg, 83%) as a white solid after drying at 45°-50° C. under vacuum. The product was greater than 99% e.e. as determined by chiral HPLC.

reactant | (S)-N-(6-benzyloxy-2,3-dihydrobenzofuran-3-yl)hydroxylamine | 38.9 moles, 10.0 kg | C(C1=CC=CC=C1)OC1=CC2=C([C@@H](CO2)NO)C=C1 | C15H15NO3
reactant | DMF | 50.0 L | CN(C)C=O | C3H7NO
reactant | acetic acid | 3.34 L | C(C)(=O)O | C2H4O2
reactant | potassium cyanate | 58.3 moles, 4.73 kg | [O-]C#N.[K+]
solvent | water | 9.0 L | O | H2O
solvent | Water | 213 L | O | H2O
product | (S)-N-(6-Benzyloxy-2,3-dihydrobenzofuran-3-yl)-N-hydroxyurea | 9.1 kg, 83% | C(C1=CC=CC=C1)OC1=CC2=C([C@@H](CO2)N(C(=O)N)O)C=C1 | C16H16N2O4
